US05130335
G. 4-Dimethoxymethylphenol
A mixture of 4.88 g (40 mmol) of 4-hydroxybenzaldehyde, 6.6 g (206 mmol) of methanol and 5.1 g (48 mmol) of trimethylorthoformate and 28 mg of p-toluene sulfonic acid was stirred at room temperature for 12 h. An excess of NaHCO3 was then added and the mixture stirred for a further 60 h. The mixture was then filtered, the solvent removed in-vacuo and the residue purified by flash chromatography (silica; 20% ethyl acetate in hexanes) to give the title compound as a viscous oil.

reactant | 4-hydroxybenzaldehyde | 40 mmol, 4.88 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | methanol | 206 mmol, 6.6 g | CO | CH4O
reactant | trimethylorthoformate | 48 mmol, 5.1 g | COC(OC)OC | C4H10O3
reactant | p-toluene sulfonic acid | 28 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 4-Dimethoxymethylphenol | COC(C1=CC=C(C=C1)O)OC | C9H12O3
